US04962115
A mixture of 4.7 parts of ethyl trans-4-amino-3-hydroxy-1-piperidinecarboxylate, 3.7 parts of 1,3-dihydroisobenzofuran-1,3-dione and 45 parts of methylbenzene was stirred and refluxed for 2 hours using a water-separator. The reaction mixture was decanted from some insoluble tar. The methylbenzene-phase was evaporated in vacuo in a boiling water-bath. The residue was boiled in 2,2'-oxybispropane. After cooling, the solvent was decanted. The remaining oil solidified on scratching in 2,2'-oxybispropane. The product was filtered off and dissolved in dichloromethane. The solution was washed successively with a dilute hydrochloric acid solution, water a dilute sodium hydroxide solution and again water. The organic phase was dried, filtered and evaporated in vacuo. The residue solidified on scratching in 2,2'-oxybispropane. The product was filtered off and crystallized from 2-propanol, yielding 2.12 parts of ethyl trans-4(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-3-hydroxy-1-piperidinecarboxylate; mp. 128.4° C. (intermediate 57).

reactant | ethyl trans-4-amino-3-hydroxy-1-piperidinecarboxylate | N[C@H]1[C@@H](CN(CC1)C(=O)OCC)O | C8H16N2O3
reactant | 1,3-dihydroisobenzofuran-1,3-dione | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
reactant | methylbenzene | CC1=CC=CC=C1 | C7H8
solvent | water | O | H2O
product | ethyl trans-4(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-3-hydroxy-1-piperidinecarboxylate | O=C1N(C(C2=CC=CC=C12)=O)[C@H]1[C@@H](CN(CC1)C(=O)OCC)O | C16H18N2O5
